US08383637B2
Cyclohexylmethyl-[3-(4-nitro-3-propylaminomethyl-phenoxy)-phenyl]-amine
NaBH(OAc)3 (0.0080 mol) was added to a mixture of propylamine (0.0054 mol) and 5-[3-(cyclohexylmethyl-amino)-phenoxy]-2-nitro-benzaldehyde (0.00054 mol) in DCE (100 mL). Then the reaction mixture was stirred overnight at room temperature and washed with a saturated NaHCO3 solution. The organic layer was separated, dried (MgSO4), and filtered, and the solvent was evaporated. The residue was purified by column chromatography (eluent: 100% CH2Cl2). The purest product fractions were collected and the solvent was evaporated to yield the title compound as a residue.

reactant | NaBH(OAc)3 | 0.0080 mol | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | propylamine | 0.0054 mol | C(CC)N | C3H9N
reactant | 5-[3-(cyclohexylmethyl-amino)-phenoxy]-2-nitro-benzaldehyde | 0.00054 mol | C1(CCCCC1)CNC=1C=C(OC=2C=CC(=C(C=O)C2)[N+](=O)[O-])C=CC1 | C20H22N2O4
solvent | DCE | 100 mL | ClCCCl | C2H4Cl2
product | Cyclohexylmethyl-[3-(4-nitro-3-propylaminomethyl-phenoxy)-phenyl]-amine | C1(CCCCC1)CNC1=CC(=CC=C1)OC1=CC(=C(C=C1)[N+](=O)[O-])CNCCC | C23H31N3O3
